US07994315B2
A solution of chloroacetyl chloride (4.3 g, 3.4 ml, 38 mmol) in dichloromethane (20 ml) was added dropwise over 30 min to the ice-cooled mixture of a solution of (1S)-1-(4-fluorophenyl)-2-(benzylamino)ethanol (8.3 g, 34 mmol) in dichloromethane (100 ml) and 1N aqueous sodium hydroxide solution (40 ml, 40 mmol), and the mixture was stirred for 1 hr at same temperature. The resulting solution was washed successively with 0.5 M hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give (1S)-1-(4-fluorophenyl)-2-(N-benzyl-N-chloroacetylamino)ethanol. Potassium hydroxide (2.2 g, 39 mmol) was added to a solution of the obtained compound in isopropyl alcohol (60 ml), and the mixture was stirred for 4 hrs. The solvent was evaporated in vacuo and the residue was partitioned between water and ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give (6S)-6-(4-fluorophenyl)-4-(benzyl)morpholin-3-one (9.7 g) as a yellow oil.

reactant | chloroacetyl chloride | 38 mmol, 3.4 ml, 4.3 g | ClCC(=O)Cl | C2H2Cl2O
reactant | (1S)-1-(4-fluorophenyl)-2-(benzylamino)ethanol | 34 mmol, 8.3 g | FC1=CC=C(C=C1)[C@@H](CNCC1=CC=CC=C1)O | C15H16FNO
reactant | sodium hydroxide | 40 mmol, 1N, 40 ml | [OH-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (1S)-1-(4-fluorophenyl)-2-(N-benzyl-N-chloroacetylamino)ethanol | FC1=CC=C(C=C1)[C@@H](CN(C(CCl)=O)CC1=CC=CC=C1)O | C17H17ClFNO2
